US08563617B2
264.4 N-{3-[8-(3-Chlorobenzyl)-7-(pyrrolidin-1-yl)-5,6,7,8-tetrahydronaphthalen-2-yl]propyl}propane-1-sulfonamide hydrochloride
N-allylpropane-1-sulfonamide (0.238 g, 1.456 mmol) is added to a solution of 9-borabicyclo[3.3.1]nonane (0.185 g, 1.519 mmol) in tetrahydrofuran (4 mL). The reaction mixture was stirred for 2 h at room temperature. (7R,8S)-8-(3-chlorobenzyl)-7-(pyrrolidin-1-yl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate (0.3 g, 0.633 mmol) dissolved in tetrahydrofuran (2 mL), sodium hydroxide (0.063 g, 1.582 mmol in 0.06 mL water) and palladium tetrakistriphenylphosphine (0.073 g, 0.063 mmol) were added. The reaction mixture was heated under reflux over night. The reaction mixture was diluted with ethyl acetate and washed with 1 M sodium hydroxide solution. The aqueous phase was extracted two more times with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4) and the solvent was evaporated in vacuo. The crude product was purified by preparative thin-layer-chromatography (silica gel, dichloromethane, methanol). The product was dissolved in dichloromethane. Excess 5N hydrochloric acid in ethanol was added. The solvent was evaporated and the product dried in vacuo. Yield: 53 mg (0.108 mmol, 17%).

reactant | N-allylpropane-1-sulfonamide | 1.456 mmol, 0.238 g | C(C=C)NS(=O)(=O)CCC | C6H13NO2S
reactant | 9-borabicyclo[3.3.1]nonane | 1.519 mmol, 0.185 g | C12CCCC(CCC1)B2 | C8H15B
reactant | (7R,8S)-8-(3-chlorobenzyl)-7-(pyrrolidin-1-yl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | 0.633 mmol, 0.3 g | FC(S(=O)(=O)OC1=CC=2[C@@H]([C@@H](CCC2C=C1)N1CCCC1)CC1=CC(=CC=C1)Cl)(F)F | C22H23ClF3NO3S
reactant | sodium hydroxide | 1.582 mmol, 0.06 mL, 0.063 g | [OH-].[Na+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{3-[8-(3-Chlorobenzyl)-7-(pyrrolidin-1-yl)-5,6,7,8-tetrahydronaphthalen-2-yl]propyl}propane-1-sulfonamide hydrochloride | Cl.ClC=1C=C(CC2C(CCC=3C=CC(=CC23)CCCNS(=O)(=O)CCC)N2CCCC2)C=CC1 | InChI=1S/C27H37ClN2O2S.ClH/c1-2-17-33(31,32)29-14-6-8-21-10-11-23-12-13-27(30-15-3-4-16-30)26(25(23)19-21)20-22-7-5-9-24(28)18-22;/h5,7,9-11,18-19,26-27,29H,2-4,6,8,12-17,20H2,1H3;1H
